US09085555B2
B. (2S,3R)-3-Azido-2-(3-chloro-2-fluoro-benzylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butylester
To (2S,3R)-3-azido-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (170 mg, 0.663 mmol) in CH2Cl2 (12 mL) were added successively 3-chloro-2-fluorobenzylamine (0.092 mL, 0.730 mmol), HBTU (377 mg, 0.995 mmol) DIPEA (0.232 mL, 1.33 mmol) and stirring was continued at RT for 20 h. The reaction mixture was diluted with CH2Cl2 and the organics were washed with 1N aqueous HCl (2×), aqueous 1N NaOH 1N (2×) and brine, dried (Phase separator) and concentrated in vacuo. The crude product was purified in two steps: first by preparative HPLC (Macherey-Nagel Nucleosil 100-10 C18, 5 μm, 40×250 mm; flow: 20 mL/min; eluent: 20-100% CH3CN/H2O for 20 min, 100% CH3CN for 2 min, CH3CN and H2O containing 0.1% TFA) and subsequently by flash column chromatography on silica (EtOAc/c-hexane gradient 1:3 to 1:1) to afford the title compound as a colorless wax. TLC Rf (EtOAc/c-hexane 1:1)=0.41; MS (LC/MS): 420 [M+Na]+, 342 [MH−tBu]+, 298 [MH−Boc]+; tR (HPLC conditions b): 4.66 min.

reactant | (2S,3R)-3-azido-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 0.663 mmol, 170 mg | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H](CC1)N=[N+]=[N-])C(=O)O | C10H16N4O4
reactant | 3-chloro-2-fluorobenzylamine | 0.730 mmol, 0.092 mL | ClC=1C(=C(CN)C=CC1)F | C7H7ClFN
reactant | HBTU | 0.995 mmol, 0.232 mL, 377 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | (2S,3R)-3-Azido-2-(3-chloro-2-fluoro-benzylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butylester | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H](CC1)N=[N+]=[N-])C(NCC1=C(C(=CC=C1)Cl)F)=O | C17H21ClFN5O3
